US04383945
To a solution of (3R,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-(2-oxoethyl)azetidin-2-one (9 mg) in acetone (1 ml) was added 2 N Jones reagent (60 μl) at 0° C. and the mixture was stirred at 0° C. for 30 minutes. After addition of isopropyl alcohol (100 μl), the mixture was evaporated in vacuo. The residue was taken up in chloroform (20 ml) and washed with brine. The aqueous layer was extracted with chloroform (5 ml). The combined organic layers were washed with aqueous saturated sodium chloride, dried over magnesium sulfate, and evaporated to give {(2R,3R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxo-azetidin-2-yl}acetic acid (7 mg).

reactant | (3R,4R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-(2-oxoethyl)azetidin-2-one | 9 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1C(N[C@@H]1CC=O)=O | C16H18N2O7
reactant | Jones reagent | 2 N, 60 μl | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropyl alcohol | 100 μl | C(C)(C)O | C3H8O
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | {(2R,3R)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxo-azetidin-2-yl}acetic acid | 7 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H](NC1=O)CC(=O)O | C16H18N2O8
